US08114875B2
1-{4-[4-(2,4-Dichlorobenzyl)piperazin-1-yl]butyl}-5-methyl-1H-pyrimidine-2,4-dione
1-(4-Chlorobutyl)-5-methyl-1H-pyrimidine-2,4-dione (0.69 mmol, 0.15 g), 1-(2,4-dichlorobenzyl)piperazine (0.62 mmol, 0.15 g), sodium bromide (3.46 mmol, 0.36 g) and diisopropylethylamine (6.92 mmol, 0.89 g) were heated in N-methylpyrrolidinone (0.6 ml) at 120° C. for 5 hours. The reaction mixture was then allowed to cool, the suspension was filtered with suction, and the filtrate was concentrated. The residue was then then taken up in ethyl acetate and washed with saturated brine. The organic layer was dried, filtered to remove the desiccant and evaporated in vacuo. The resulting residue was purified by chromatography on silica gel (eluent: methyl tert-butyl ether/methanol (0-100%), resulting in 88.0 mg of the title compound.

reactant | 1-(4-Chlorobutyl)-5-methyl-1H-pyrimidine-2,4-dione | 0.69 mmol, 0.15 g | ClCCCCN1C(NC(C(=C1)C)=O)=O | C9H13ClN2O2
reactant | 1-(2,4-dichlorobenzyl)piperazine | 0.62 mmol, 0.15 g | ClC1=C(CN2CCNCC2)C=CC(=C1)Cl | C11H14Cl2N2
reactant | sodium bromide | 3.46 mmol, 0.36 g | [Br-].[Na+]
reactant | diisopropylethylamine | 6.92 mmol, 0.89 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidinone | 0.6 ml | CN1C(CCC1)=O | C5H9NO
product | 1-{4-[4-(2,4-Dichlorobenzyl)piperazin-1-yl]butyl}-5-methyl-1H-pyrimidine-2,4-dione | 88.0 mg | ClC1=C(CN2CCN(CC2)CCCCN2C(NC(C(=C2)C)=O)=O)C=CC(=C1)Cl | C20H26Cl2N4O2
